US07981874B2
4-Bromopyridine hydrochloride (8 g, 41.1 mmol), diethyl phosphite (8.23 mL, 63.8 mmol), tetrakis(triphenylphosphine)palladium(0) (1.189 g, 1.029 mmol) and TEA (17.20 mL, 123 mmol) were stirred in refluxing toluene (160 mL) overnight. Room temperature was attained, water was added and the organic layer separated. The aqueous phase was extracted with EtOAc (×2). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by MPLC (EtOAc) gave diethyl pyridin-4-ylphosphonate as a pale yellow oil. 1H NMR (DMSO-d6, 600 MHz) δ 8.75 (m, 2H), 7.61 (m, 2H), 4.03 (m, 4H), 1.21 (t, J=7.2 Hz, 6H). MS: cal'd 216 (MH+), exp 216 (MH+).

reactant | 4-Bromopyridine hydrochloride | 41.1 mmol, 8 g | Cl.BrC1=CC=NC=C1
reactant | diethyl phosphite | 63.8 mmol, 8.23 mL | P(OCC)(OCC)[O-]
reactant | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.029 mmol, 1.189 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | diethyl pyridin-4-ylphosphonate | N1=CC=C(C=C1)P(OCC)(OCC)=O | C9H14NO3P
